US05670455
Preparation of 3-chloro-2-(2,4-dichloro-5-nitrophenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine
A 1.1 g (3.85 mmol) sample of 3-chloro-2-(2,4-dichlorophenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine was added to 8.0 ml of a 1:1 mixture of concentrated sulfuric/nitric acid at 0° C. The reaction mixture was stirred at 0° C. for 20 minutes followed by warming to 20° C. After pouring the reaction mixture onto ice/water, the resulting aqueous mixture was extracted with 400 ml of ethyl acetate. The separated organic layer was washed with water, brine, and dried over magnesium sulfate. The yellow oily solid residue obtained after evaporating in vacuo was flash chromatographed on silica gel (1:1 hexane/ethyl acetate) to provide 0.8 g of the title compound as a yellow solid (m.p. 111°-112° C.). NMR (CDCl3, 200 MHz): δ1.95 (m, 2H), 2.05 (m, 2H), 2.91 (t, 2H), 3.92 (t, 2H), 7.66 (s, 1H), 8.09 (s, 1H).

reactant | 3-chloro-2-(2,4-dichlorophenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine | ClC1=C(N=C2N1CCCC2)C2=C(C=C(C=C2)Cl)Cl | C13H11Cl3N2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 3-chloro-2-(2,4-dichloro-5-nitrophenyl)-5,6,7,8-tetrahydroimidazo[1,2-a]pyridine | 0.8 g | ClC1=C(N=C2N1CCCC2)C2=C(C=C(C(=C2)[N+](=O)[O-])Cl)Cl | C13H10Cl3N3O2
